US05451687
To a 300 ml reaction vessel equipped with a stirrer, thermometer, condenser and a dropping funnel, 30 g of D-tartaric acid, 70 g of toluene, 0.12 g of ferric chloride and 59.9 g of p-toluic acid were supplied, and the mixture was heated to 90° C. While keeping this temperature, 83.7 g of thionyl chloride was added from the dropping funnel for 6 hours and the resulting mixture was aged at 105°-110° C. for another 1 hour to carry out the reaction. The reaction mixture was then cooled to room temperature and the precipitated crystals were collected by filtration, followed by drying to obtain 67.2 g of O,O'-di-p-toluoyl-D-tartaric anhydride in the form of pale yellow crystals (purity: 100%, yield: 91.3%).

reactant | D-tartaric acid | 30 g | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
reactant | p-toluic acid | 59.9 g | CC=1C=CC(=CC1)C(=O)O | C8H8O2
reactant | thionyl chloride | 83.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 70 g | C1(=CC=CC=C1)C | C7H8
product | O,O'-di-p-toluoyl-D-tartaric anhydride | 67.2 g, yield: 91.3% | CC1=CC=C(C=C1)C(=O)O[C@H]2[C@@H](C(=O)OC2=O)OC(=O)C3=CC=C(C=C3)C | C20H16O7
